US20010047031A1
(RS)-4-[3-(4-Hydroxy-benzenesulfonyl)-pyrrolidin-1-yl]-piperidine-1-carboxylic acid tert-butyl ester
The title compound, MS: m/e=411.3 (M+H+) was prepared from (RS)-4-(pyrrolidine-3-sulfonyl)-phenol trifluoroacetic acid and 4-oxo-piperidine-1-carboxylic acid tert-butyl ester following the procedure described for example 1.

reactant | (RS)-4-(pyrrolidine-3-sulfonyl)-phenol trifluoroacetic acid | FC(C(=O)O)(F)F.N1CC(CC1)S(=O)(=O)C1=CC=C(C=C1)O
reactant | 4-oxo-piperidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CCC(CC1)=O | C10H17NO3
product | (RS)-4-[3-(4-Hydroxy-benzenesulfonyl)-pyrrolidin-1-yl]-piperidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CCC(CC1)N1CC(CC1)S(=O)(=O)C1=CC=C(C=C1)O | C20H30N2O5S
